US03996276
A mixture of 3.62 g of 1,4,8-triazacycloundecane and 3.75 g of hexamethylphosphorous triamide is heated to 125° C with stirring and held at this temperature for 2 hours, by which time evolution of dimethylamine is complete. Evolution is vigorous for the first 45 minutes. Distillation affords 3.20 g (75%) 1,4,8-triaza-12-phosphatricyclo-[6.3.1.04,12 ]dodecane as a water-white liquid which boils at 73°-75° C at 0.30 mm.

reactant | 1,4,8-triazacycloundecane | 3.62 g | N1CCNCCCNCCC1 | C8H19N3
reactant | dimethylamine | CNC | C2H7N
reactant | hexamethylphosphorous triamide | 3.75 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 1,4,8-triaza-12-phosphatricyclo-[6.3.1.04,12 ]dodecane | 3.20 g, 75% | N12CCN3CCCN(CCC1)P23 | C8H16N3P
